Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / atorvastatin / pravastatin / WelChol
 
Attending: ___.
 
Chief Complaint:
Chest pain, epigastric burning. 
 
Major Surgical or Invasive Procedure:
___- cardiac catheterization, with 90% occluded RCA s/p ___ 
___.

 
History of Present Illness:
___ with a history of hypothyroidism presented with chest pain, 
found to have positive troponins at ___ who was 
transferred for urgent cardiac catheterization. 

In early ___, she was complaining of stomach burning with 
radiation into her chest occurring with exertion and at rest. 
She was not having shortness of breath and was exercising by 
walking 45 minutes, and doing the elliptical ___ times per week. 
Her cardiologist ordered a stress echo to evaluate her episodes 
of chest burning based on a prior abnormal stress echo with 
hypokinesis of the inferior wall post-stress. She underwent 
stress echo with persistent inferior hypokinesis. 

4 days ago, she started developing more persistent epigastric 
pain, left hand and shoulder pain. She was urged by her 
cardiologist to seek emergency care. She then presented to 
___. 

At ___, her initial vitals were T 98.7 HR 102, BP 166/98, RR 
24, 100% RA. An ECG showed 1mm STE in III and ST depressions in 
V2/V3/V4. CKMB was 21.0, troponin T 0.51, BUN/Cr ___. 

In the ___ initial vitals were: HR 70 BP 147/88 RR 14 100% RA. 
She was immediately taken to the cath lab. In the cath lab, she 
was found to have 20% distal stenosis of her LMCA, 20% stenosis 
of her LAD, 20% ostial stenosis, and 90% mid-stenosis of her RCA 
with filling of the right PDA with left to right collaterals. A 
DES was placed to the RCA. Post-PCI ECG revealed persistent ST 
depressions in V2/V3/V4 but resolution of STE in III. At ___, 
she was given 600mg of Plavix, 80mg of atorvastatin, 325mg of 
aspirin. 

On the floor she reports that she is in no distress. 

In terms of her medication management in the past, she has had 
several adverse reactions to statin medications including severe 
myalgias (unclear if any CK elevation) and blurry vision. She 
has also had weakness with metoprolol and has trialed 25mg in 
the past but did not tolerate it so dropped her dose to 12.5mg 
daily metoprolol succinate. 

ROS: On review of systems, denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. Denies recent fevers, chills or rigors. 
Denies exertional buttock or calf pain. All of the other review 
of systems were negative. Cardiac review of systems is notable 
for absence of chest pain, dyspnea on exertion, paroxysmal 
nocturnal dyspnea, orthopnea, ankle edema, palpitations, syncope 
or presyncope.

 
Past Medical History:
Coronary artery disease
Hyperlipidemia
Hypothyroidism
S/p prophylactic oophorectomy 

 
Social History:
___
Family History:
Mother died of MI at ___.  Father died at ___ of the PE during 
hospitalization.  One brother had a CABG at age ___ and one had a 
CABG at age ___.
 
Physical Exam:
Physical Exam on Admission:
VS: T97.5 141/73 77 16 100% RA 
GENERAL: WDWN. Oriented x3. Mood, affect appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.
NECK: Supple with no elevation of her JVP.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.
ABDOMEN: Soft, NTND. No HSM or tenderness.
EXTREMITIES: No c/c/e. No femoral bruits. TR band in place.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES: Distal pulses palpable and symmetric

=
=
=
=
=
=
=
=
=
=
================================================================
Physical Exam on Discharge:

PHYSICAL EXAM:
VS: T=98 BP=100s-110s/50s-60s HR= 60-70s RR=18 O2 sat=98% RA
Weight: 57.2kg
GENERAL: WDWN. Oriented x3. Mood, affect appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.
NECK: Supple
CARDIAC: RRR, no m/r/g, JVP 10
LUNGS: CTAB, no crackles appreciated. Decreased BS at bases. 
ABDOMEN: Soft, mild epigastric tenderness. No HSM or tenderness.
EXTREMITIES: no peripheral edema
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES: Distal pulses palpable and symmetric
Neuro: AAOX3
 
Pertinent Results:
Labs on Admission:

___ 01:30PM BLOOD WBC-6.3 RBC-3.74* Hgb-11.6 Hct-34.7 
MCV-93 MCH-31.0 MCHC-33.4 RDW-12.2 RDWSD-41.6 Plt ___
___ 02:20PM BLOOD Neuts-58.6 ___ Monos-9.9 Eos-0.6* 
Baso-0.4 Im ___ AbsNeut-3.16 AbsLymp-1.62 AbsMono-0.53 
AbsEos-0.03* AbsBaso-0.02
___ 01:30PM BLOOD Plt ___
___ 01:30PM BLOOD UreaN-13 Creat-0.6
___ 02:20PM BLOOD ALT-22 AST-38 AlkPhos-43 TotBili-0.2
___ 02:20PM BLOOD cTropnT-0.47*
___ 01:30PM BLOOD Cholest-221*
___ 01:30PM BLOOD %HbA1c-5.7 eAG-117
___ 01:30PM BLOOD Triglyc-123 HDL-59 CHOL/HD-3.7 
LDLcalc-137*
___ 01:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:30PM BLOOD LtGrnHD-HOLD
___ 01:43PM BLOOD Comment-GREEN TOP
___ 01:43PM BLOOD Glucose-115* Lactate-1.3 Na-140 K-3.8 
Cl-104 calHCO3-23

=
=
=
=
=
=
=
=
=
=
================================================================
Labs on Discharge:

___ 05:25AM BLOOD WBC-4.8 RBC-3.39* Hgb-10.5* Hct-31.1* 
MCV-92 MCH-31.0 MCHC-33.8 RDW-12.2 RDWSD-40.8 Plt ___
___ 05:25AM BLOOD Plt ___
___ 05:25AM BLOOD Glucose-91 UreaN-13 Creat-0.6 Na-136 
K-3.7 Cl-103 HCO3-25 AnGap-12
___ 12:40PM BLOOD CK-MB-15* cTropnT-1.00*
___ 05:25AM BLOOD cTropnT-1.22*
___ 05:25AM BLOOD Calcium-8.5 Phos-3.9 Mg-2.2

=
=
=
=
=
=
=
=
=
=
================================================================
Clinical Studies/Imaging:

___: TTE:
Conclusions   
 The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___ mmHg. Left ventricular wall thicknesses and cavity size 
are normal. There is mild regional left ventricular systolic 
dysfunction with hypokinesis of the entire inferior wall, mid 
inferolateral wall, and basal inferior septum. The remaining 
segments contract normally (LVEF = 50%). Doppler parameters are 
indeterminate for left ventricular diastolic function. Right 
ventricular chamber size is normal with mild global free wall 
hypokinesis. The aortic root is mildly dilated at the sinus 
level. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve leaflets are structurally 
normal. There is no mitral valve prolapse. No mitral 
regurgitation is seen. The estimated pulmonary artery systolic 
pressure is normal. There is no pericardial effusion. 

 IMPRESSION: Mild regional systolic dysfunction c/w CAD (RCA 
territory). No significant valvular disease. Normal pulmonary 
artery systolic pressure.   

___: Cardiac Cath Report

L Main: 20% Distal Stenosis
LAD: Ostial 20% Stenosis
Circumflex: 20% Ostial Stenosis
RCA: 90% mid-stenosis s/p single ___

___: EKG:
NSR, 1mm STE in III and ST depressions in V2/V3/V4.

 
Brief Hospital Course:
___ with a history of dyslipidemia and hypothyroidism presents 
with chest pain, cardiac enzyme elevation, 1mm STE in III and 
depressions in V2/V3/V4 concerning for NSTEMI s/p cardiac cath 
showing 90% occluded RCA w/ ___.

#NSTEMI: In early ___, Ms. ___ had epigastric burning 
and had a stress echo that showed mild inferior hypokineses. On 
___, she started having more severe epigastric burning 
sensations and ultimately called her cardiologist on ___ who 
prompted her to present to the emergency room. At the ___, she was found to have a trop of 0.51 with 1mm STE in III and 
depressions in V2/V3/V4 concerning of NSTEMI. She received 
aspirin 325, Plavix 600 and SL nitro at the OSH, and was 
transferred over to ___ where she underwent cardiac 
catheterization that showed 90% occluded RCA s/p a single 
drug-eluting stent placement. She was transferred to the 
cardiology floor post-procedurally and was clinically stable. 
Her trops peaked at 1.22 and subsequently downtrended. A repeat 
EKG was stable. We performed a TTE after the revascularization 
procedure and it showed mild regional systolic dysfunction c/w 
CAD (RCA territory); no significant valvular disease; normal 
pulmonary artery systolic pressure. She will continue on aspirin 
81mg, crestor (upped to 3x/week), Plavix, and metop 12.5mg XL. 
We were unable to increase her metop due to her hemodynamic 
intolerance. Additionally, we did not start her on an ACE 
inhibitor because her blood pressure was in the 100s/50s. Please 
consider starting an ACE should she be able to tolerate it, in 
the outpatient setting. Please follow-up with her regarding her 
NSTEMI and consider obtaining a repeat echo in the outpatient 
setting to assess for recovery of regional hypokinesis after 
revascularization. For risk stratification, we also tested her 
A1c which was 5.7%, and her LD was 137, HDL 59, ___ 223, 
Cholesterol 223. Her discharge weight was 57.2kg. 

#Hyperlipidemia: We continued her on crestor as above.

#Hypothyroidism: We tested her TSH and it was 0.51. We continued 
her home synthroid.

=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
================================================================
TRANSITIONAL ISSUES: 
1. Please note that her crestor was increased to 3 times weekly.
2. Please consider adding an ACE inhibitor in the outpatient 
setting. Her blood pressure was in the 100s/60s and we did not 
initiate an ACE in this setting. 
3. Please follow-up regarding her NSTEMI s/p cath and DES. Her 
echo demonstrated mild regional systolic dysfunction in the area 
of the RCA territory. Please consider obtaining a repeat echo in 
the outpatient setting. 
4. Please continue her aspirin for life, Plavix for one year and 
only to be changed per cardiology recommendations. 
5. Please note we continued her metop at home dose (12.5mg PO 
daily)
due to past inability to tolerate higher doses
6. Please note that her discharge weight was 59.2kg.

# CODE: full 
# CONTACT: 
Name of health care proxy: ___ 
___: daughter 
Phone number: ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Metoprolol Succinate XL 12.5 mg PO DAILY 
3. Levothyroxine Sodium 88 mcg PO DAILY 
4. Rosuvastatin Calcium 5 mg PO 2X/WEEK (MO,TH) 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Levothyroxine Sodium 88 mcg PO DAILY 
3. Metoprolol Succinate XL 12.5 mg PO DAILY 
4. Rosuvastatin Calcium 5 mg PO 3X/WEEK (MO,TH,SA) 
RX *rosuvastatin [Crestor] 5 mg 1 tablet(s) by mouth Three times 
a week Disp #*30 Tablet Refills:*0
5. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0
6. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
MR q5min x max 3 doses. If further pain, call ___. 
RX *nitroglycerin [Nitrostat] 0.3 mg 1 tablet(s) sublingually 
PRN Disp #*15 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
1. Non-ST elevation myocardial infarction 
2. coronary artery disease 

SECONDARY DIAGNOSES:
1. hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at the ___ 
___. You were admitted because you had a 
heart attack. You underwent cardiac catheterization which 
revealed stenosis of your right coronary artery. You had a drug 
eluting stent placed in your artery to open it up. Afterward, 
you tolerated this procedure well. 

You also had an echocardiogram of your heart while you were 
here. It showed that there is some mild dysfunction of the 
pumping function of your heart where your heart attack was. It 
is possible that this area will improve over time. Your 
outpatient cardiologist may consider repeating your 
echocardiogram in the upcoming months. 

It is very important to take all of your heart healthy 
medications. 

You will continue to take aspirin everyday. If you stop taking 
aspirin, you risk the stent clotting and death. Do not stop 
taking aspirin unless you are told by your cardiologist. No 
other doctor can tell you to stop taking this medication.  

You are now on Plavix (also known as clopidogrel). This 
medication helps keep your stent open. Do not stop taking plavix 
unless you are told by your cardiologist. No other doctor can 
tell you to stop taking this medication.  

We wish you all the best, 

Your ___ Cardiology team

 
Followup Instructions:
___